### PR TITLE
[Merged by Bors] - feat: The finset `{a, b}` has card one or two

### PR DESCRIPTION
**Pull request by sinhp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Adjunction/Over.lean [hunk 1]
```diff
@@ -29,27 +30,76 @@ open Category Limits Comonad
...
+    · dsimp; simp
+    · dsimp; simp
+  map_comp f g := by
+    apply Over.OverMorphism.ext; apply pullback.hom_ext
+    · dsimp; simp
+    · dsimp; simp
+#align category_theory.limits.base_change CategoryTheory.Over.baseChange
+
+-- deprecated on 2024-05-15
+@[deprecated] noncomputable alias Limits.baseChange := Over.baseChange
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Adjunction/Over.lean:56]:
```suggestion
@[deprecated (since := "2024-05-15")] noncomputable alias Limits.baseChange := Over.baseChange
```
Also note that since #13206 you can type `depr` + `TAB` and a code snippet
````
@[deprecated (since := "current date")] alias  := 
```
will appear

File: Mathlib/Data/Finset/Card.lean [hunk 2]
```diff
@@ -149,6 +149,12 @@ theorem card_insert_eq_ite : card (insert a s) = if a ∈ s then s.card else s.c
   · rw [card_insert_of_not_mem h, if_neg h]
 #align finset.card_insert_eq_ite Finset.card_insert_eq_ite
 
+@[simp]
+theorem card_one_or_two :
+    ({a,b} : Finset α).card = 1 ∨ ({a,b} : Finset α).card = 2 := by
+  simp [card_insert_eq_ite]
+  tauto
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Card.lean:156]:
```suggestion
theorem card_pair_eq_one_or_two : ({a,b} : Finset α).card = 1 ∨ ({a,b} : Finset α).card = 2 := by
  simp [card_insert_eq_ite]
  tauto
```

**Review by YaelDillies — COMMENTED** [review]
Looks like you got some accidental changes on this branch

**Comment by sinhp** [comment]
> Looks like you got some accidental changes on this branch

hmmm... I did create a new branch using `git switch -c my_new_branch` and then did `git pull` and `lake exe cache get`, but indeed it seems there is accidental changes on this branch! I tried to resolve it, but not sure I did it correctly?

File: Mathlib/CategoryTheory/Adjunction/Over.lean [hunk 3]
```diff
@@ -97,9 +97,9 @@ instance [HasBinaryProducts C] : (forget X).IsLeftAdjoint  :=
 
 end Over
 
+
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Adjunction/Over.lean:100]:
```suggestion
```

File: Mathlib/CategoryTheory/Adjunction/Over.lean [hunk 4]
```diff
@@ -97,9 +97,9 @@ instance [HasBinaryProducts C] : (forget X).IsLeftAdjoint  :=
...
 @[deprecated (since := "2024-05-18")] noncomputable alias star := Over.star
 
 @[deprecated (since := "2024-05-18")] noncomputable alias forgetAdjStar := Over.forgetAdjStar
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Adjunction/Over.lean:104]:
```suggestion


```

**Review by YaelDillies — COMMENTED** [review]
Looks like you almost did! There's just a few whitespace changes to `CategoryTheory.Adjunction.Over`.

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
